US06380218B1
2-(4-aminomethyl-phenyl)-propan-2-ol
To a stirred solution of 4-(1-hydroxy-1-methyl-ethyl)-benzonitrile (20.9 g, 0.13 mol.) in dry tetrahydrofuran (300 mL) at 0° C. was added slowly dropwise 1.0M lithium aluminium hydride in tetrahydrofuran (388 mL, 0.39 mol.). The mixture was refluxed for 30 min. then cooled to 0° C. and quenched with methanol (50 mL) added slowly dropwise. The mixture was concentrated in vacuo to half volume and diluted with chloroform (1200 mL) then washed with water (300 mL). The resulting suspension was filtered through Celite and the filtrate layers seperated. The organic extract was dried (MgSO4) and concentrated to give 16.2 g as a light yellow solid mp 64-6° C. NMR (CDCl3): 7.45 (d, 2H), 7.26 (d, 2H), 3.83 (s, 2H), 1.57 (s, 6H). GC-MS (m/e, %): 164 (M+, 15), 150 (80), 132 (75), 106 (100).

reactant | 4-(1-hydroxy-1-methyl-ethyl)-benzonitrile | 0.13 mol, 20.9 g | OC(C)(C)C1=CC=C(C#N)C=C1 | C10H11NO
reactant | lithium aluminium hydride | 1.0M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.39 mol, 388 mL | O1CCCC1 | C4H8O
product | 2-(4-aminomethyl-phenyl)-propan-2-ol | NCC1=CC=C(C=C1)C(C)(C)O | C10H15NO
